US05583130
Step B: 3-[2(R)-Benzyloxypropyl]amino-3-methyl-N-[2, 3,4,5-tetrahydro-2-oxo-1-[[2'-[(t-butoxycarbonylamino)methyl][1,1'-biphenyl]-4-yl]-methyl]-1H-1-benzazepin-3(R)-yl]-butanamide
To a solution of 514 mg (1.22 mmol) of 3-[2(R)-benzyloxypropyl]amino-3-methyl-N-[2,3,4,5-tetrahydro-2-oxo-1H-1-benzazepin-3(R)-yl]-butanamide in 5 mL of dry dimethylformamide under nitrogen was added 53 mg (1.34 mmol) of 60% sodium hydride/oil dispersion. After stirring for 15 minutes, a solution of 499 mg (1.28 mmol) of 2'-[(t-Butoxycarbonylamino)methyl]-1,1-biphenyl-4-methanol, methanesulfonate ester (Example 11, Step I) in 2 mL of dry dimethylformamide was added by cannula. The flask which originally contained the mesylate was rinsed with 1 mL of dimethylformamide which was added to the reaction mixture. After stirring at room temperature for 2 hours, the reaction mixture was diluted with 200 mL of ethyl acetate, washed with water (2×40 mL) and 40 mL of saturated aqueous sodium chloride. The organic layer was removed, dried over sodium sulfate, filtered and the solvent removed under vacuum. The residue was purified by flash chromatography on silica gel eluting with chloroform/10% concentrated ammonium hydroxide in methanol (94:6) to afford 872 mg (100%) of the product as a white foam. FAB-MS: calculated for C44H54N4O5 718; found 719 (M+H,40%). 1H NMR (200 MHz, CD3OD): 1.11 (s,3H), 1.12 (s,3H), 1.18 (d,6 Hz,3H), 1.39 (s,9H), 1.80-2.05 (m,1H), 2.15-2.38 (m,3H), 2.45-2.70 (m,4H), 3.70 (m,1H), 4.05 (s,2H), 4.42 (dd;5.11 Hz,1H), 4.47 (d,11 Hz, 1H, 4.60 (d,11 Hz, 1H), 4.93 (d,15 Hz, 1H), 4.47 (d,11 Hz, 1H, 4.60 (d,11 Hz, 1H), 4.93 (d,15 Hz, 1H), 7.05-7.40 (m,17H).

reactant | 3-[2(R)-benzyloxypropyl]amino-3-methyl-N-[2,3,4,5-tetrahydro-2-oxo-1H-1-benzazepin-3(R)-yl]-butanamide | 1.22 mmol, 514 mg | C(C1=CC=CC=C1)O[C@@H](CNC(CC(=O)N[C@H]1C(NC2=C(CC1)C=CC=C2)=O)(C)C)C | C25H33N3O3
reactant | sodium hydride | 1.34 mmol, 53 mg | [H-].[Na+]
reactant | 2'-[(t-Butoxycarbonylamino)methyl]-1,1-biphenyl-4-methanol | 1.28 mmol, 499 mg | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)C1=CC=C(C=C1)CO | C19H23NO3
reactant | mesylate | S(C)(=O)(=O)[O-]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-[2(R)-Benzyloxypropyl]amino-3-methyl-N-[2, 3,4,5-tetrahydro-2-oxo-1-[[2'-[(t-butoxycarbonylamino)methyl][1,1'-biphenyl]-4-yl]-methyl]-1H-1-benzazepin-3(R)-yl]-butanamide | 872 mg, 100% | C(C1=CC=CC=C1)O[C@@H](CNC(CC(=O)N[C@H]1C(N(C2=C(CC1)C=CC=C2)CC2=CC=C(C=C2)C2=C(C=CC=C2)CNC(=O)OC(C)(C)C)=O)(C)C)C | C44H54N4O5
